US04745124
N-[[2-(Acetylthio)ethyl]sulfonyl]-L-proline (640 mg, 0.0023 mole) is dissolved in 5 ml of water and 5 mg of concentrated ammonia and stirred 1 hour under nitrogen. The solution is acidified with concentrated hydrochloric acid, extracted with ethyl acetate, and the extracts are washed with brine, dried (MgSO4) and evaporated to an oily residue which is applied to a 75 ml silica gel column. Elution with 10% acetic acid/benzene affords a main fraction which is crystallized from chloroform/hexane, to obtain 440 mg (81%) of 1-[(2-mercaptoethyl)sulfonyl]-L-proline, m.p. 99°-101°.

reactant | N-[[2-(Acetylthio)ethyl]sulfonyl]-L-proline | 0.0023 mole, 640 mg | C(C)(=O)SCCS(=O)(=O)N1[C@H](C(=O)O)CCC1 | C9H15NO5S2
reactant | ammonia | 5 mg | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 1-[(2-mercaptoethyl)sulfonyl]-L-proline | 440 mg, 81% | SCCS(=O)(=O)N1[C@H](C(=O)O)CCC1 | C7H13NO4S2
